US03962249
1-(3-Phenylpropyl)-3,3-dimethyl-4-(2-furoyl)piperazine hydrochloride
The compound was obtained by following the same process as in Example 2 from a mixture of 1-(3-phenylpropyl)-3,3-dimethylpiperazine [b.p. 111°C (2 mmHg), dipicrate, m.p. 195° - 200°C], 2-furoyl chloride and benzene.

reactant | 1-(3-phenylpropyl)-3,3-dimethylpiperazine | C1(=CC=CC=C1)CCCN1CC(NCC1)(C)C | C15H24N2
reactant | 2-furoyl chloride | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-(3-Phenylpropyl)-3,3-dimethyl-4-(2-furoyl)piperazine hydrochloride | Cl.C1(=CC=CC=C1)CCCN1CC(N(CC1)C(=O)C=1OC=CC1)(C)C | InChI=1S/C20H26N2O2.ClH/c1-20(2)16-21(12-6-10-17-8-4-3-5-9-17)13-14-22(20)19(23)18-11-7-15-24-18;/h3-5,7-9,11,15H,6,10,12-14,16H2,1-2H3;1H
